US06403561B1
a) Preparation of N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid
A solution of 20 g (122.56 mmol) of 2(S)-indolinecarboxylic acid in 2N NaOH (62 ml) is cooled in an ice/water bath and the solution is stirred using a powerful magnetic stirrer. 20.0 ml (140.09 mmol) of benzyl chloroformate and 68 ml of 2N NaOH are added thereto alternately in about 10 portions over 60 minutes. The temperature of the reaction mixture is maintained between 0° and 5° C. by controlling the rate of addition of the reactants. 50 ml of NaOH are then added and the mixture is maintained at room temperature for 30 minutes. The alkaline solution is washed with ether (4×150 ml) and is then acidified by addition of 5N HCl (80 ml, pH<2). A crystalline mass precipitates after leaving overnight at room temperature. It is filtered off and washed with distilled water (500 ml). After drying over P2O5, the desired product is obtained.

reactant | 2(S)-indolinecarboxylic acid | 122.56 mmol, 20 g | N1[C@@H](CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | benzyl chloroformate | 140.09 mmol, 20.0 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | NaOH | 2N, 62 ml | [OH-].[Na+]
solvent | NaOH | 50 ml | [OH-].[Na+]
solvent | NaOH | 2N, 68 ml | [OH-].[Na+]
product | N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C17H15NO4
